US04347186
A solution of the mixture of dimethyl 5-(4-fluorobenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1,1-dicarboxylate and methyl 5-(4-fluorobenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate (0.200 g) in methanol (5 ml) and water (3 ml) containing potassium hydroxide (0.5 g) was heated at reflux temperature for 1 hour. The solvent was removed in vacuo, water was added to the residue and the solution was made acidic with 10% hydrochloric acid solution. The product was extracted into ethyl acetate, the extract was dried and evaporated. The solid residue on crystallization from ethyl acetate-hexane gave 5-(4-fluorobenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid (0.124 g, 80%) m.p. 163°. A mixed m.p. with an authentic specimen (m.p. 170°) had m.p. 165°. The IR spectrum was identical to that of the authentic sample.

reactant | dimethyl 5-(4-fluorobenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1,1-dicarboxylate | FC1=CC=C(C(=O)C2=CC=C3N2CCC3(C(=O)OC)C(=O)OC)C=C1 | C18H16FNO5
reactant | methyl 5-(4-fluorobenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | 0.200 g | FC1=CC=C(C(=O)C2=CC=C3N2CCC3C(=O)OC)C=C1 | C16H14FNO3
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 5-(4-fluorobenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | 0.124 g, 80% | FC1=CC=C(C(=O)C2=CC=C3N2CCC3C(=O)O)C=C1 | C15H12FNO3
